US07989457B2
Step A. 3-(4-Benzyloxy-benzoylamino)-propionic acid methyl ester
To a mixture of 4-benzyloxybenzoic acid (8.92 g, 39.08 mmol) and 3-amino-propionic acid methyl ester hydrochloride (6.00 g, 42.98 mmol) in CH2Cl2 (100 mL) was added DMAP (catalytic), triethylamine (6.60 mL, 47.35 mmol), and EDCI (9.00 g, 46.94 mmol). The mixture was stirred at RT for 12 h. The mixture was diluted with CH2Cl2. The organics were washed with 1N HCl, 2N NaOH, water, and brine (1×100 mL each), and dried with MgSO4 to yield 11.28 g (92%) of the title compound.

reactant | 4-benzyloxybenzoic acid | 39.08 mmol, 8.92 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)O)C=C1 | C14H12O3
reactant | 3-amino-propionic acid methyl ester hydrochloride | 42.98 mmol, 6.00 g | Cl.COC(CCN)=O
reactant | triethylamine | 47.35 mmol, 6.60 mL | C(C)N(CC)CC | C6H15N
reactant | EDCI | 46.94 mmol, 9.00 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-(4-Benzyloxy-benzoylamino)-propionic acid methyl ester | 11.28 g, 92% | COC(CCNC(C1=CC=C(C=C1)OCC1=CC=CC=C1)=O)=O | C18H19NO4
